US04026898
7-oxo-1,2,3,3-tetramethyl-5-trifluoromethyl-2,3,7,8-tetrahydro-1H-pyrrolo [3,2-g] quinoline
6-Amino-1,2,3,3-tetramethylindoline (6.9 g, 0.036 mole) was treated with 6.8 g of ethyl trifluoroacetoacetate. There was an immediate reaction with heat evolution and formation of a solid. The mixture was heated in an oil bath under a reflux condenser for 16 hrs at 135°-140° C., then for 1 hr at 145°-150° C. The cooled cake was broken up, triturated with 10 ml of diethyl ether, filtered and washed twice with cold ether; 7.7 g (69%). When recrystallized from 275 ml of 95% ethanol, the compound was obtained as felted, yellow needles; m.p. 248°-249° C., shrinking at 244° C.

reactant | 6-Amino-1,2,3,3-tetramethylindoline | 0.036 mole, 6.9 g | NC1=CC=C2C(C(N(C2=C1)C)C)(C)C | C12H18N2
reactant | ethyl trifluoroacetoacetate | 6.8 g | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
product | 7-oxo-1,2,3,3-tetramethyl-5-trifluoromethyl-2,3,7,8-tetrahydro-1H-pyrrolo [3,2-g] quinoline | O=C1NC2=CC3=C(C=C2C(=C1)C(F)(F)F)C(C(N3C)C)(C)C | C16H17F3N2O
